US07482457B2
3-(4-(1-Methylethyl)-piperazin-1-ylmethyl)-2-phenylquinoline-4-carboxylic acid azepan-1-ylamide
O-Benzotriazole-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU) (156 mg, 0.41 mmol) was added to a stirred mixture of 3-(4-(1-methylethyl)-piperazin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic acid (100 mg, 0.26 mmol) [J. Med. Chem. 2001, 44, 1675-1689], 1-aminohomopiperidine (47 μL, 0.41 mmol) and Et3N (178 μL, 1.3 mmol) in THF (5 mL) and CH2Cl2 (1.5 mL), and the mixture was heated at reflux for 18 h under N2. The solvent was evaporated under reduced pressure, and the residue was dissolved in CH2Cl2 and washed with H2O, 0.5 N NaOH solution, and H2O. The organic phase was dried (MgSO4) and concentrated under reduced pressure. The residue was purified by reverse phase preparative HPLC affording, after basic work up, the desired hydrazide (28 mg, 17%). 1H NMR (CD3OD, 360 MHz), Major rotamer δ 8.05 (1H, d, J=8.3 Hz), 7.96 (1H, d, J=8.3 Hz), 7.83-7.75 (1H, m), 7.72-7.60 (1H, m), 7.55-7.43 (5H, m), 3.66 (2H, s), 3.24-3.17 (4H, m), 2.53 (1H, septet, J=6.5 Hz), 2.45-2.10 (8H, m), 1.86-1.72 (8H, m), 1.00 (6H, d, J=6.5 Hz). MS (ES+) C30H39N5O requires: 485, found: 486 (M+H+, 100%).

reactant | O-Benzotriazole-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.41 mmol, 156 mg | CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(4-(1-methylethyl)-piperazin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic acid | 0.26 mmol, 100 mg | CC(C)N1CCN(CC1)CC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C24H27N3O2
reactant | 1-aminohomopiperidine | 0.41 mmol, 47 μL | NN1CCCCCC1 | C6H14N2
reactant | Et3N | 1.3 mmol, 178 μL | CCN(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-(1-Methylethyl)-piperazin-1-ylmethyl)-2-phenylquinoline-4-carboxylic acid azepan-1-ylamide | N1(CCCCCC1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CN1CCN(CC1)C(C)C | C30H39N5O
